US05281620
A solution of crude 2-(4-methyl-2-phenylmethoxyphenyl)acetonitrile (15 g, 63 mmol) in ethanol (200 ml) and water (50 ml) containing 10 g (0.25 mol) NaOH was heated under reflux overnight, and the ethanol was removed under vacuum. The residue was diluted with water and washed with benzene. The aqueous layer was then acidified with dilute HCl to give an oil which was extracted into ethyl acetate to give (4-methyl-2-phenylmethoxyphenyl)acetic acid (14.2 g, 88%) as an oil which solidified on standing. A solution of this crude (4-methyl-2-phenylmethoxyphenyl)acetic acid in ethanol was hydrogenated over palladium on charcoal to give (2-hydroxy-4-methylphenyl)acetic acid. Anal (C9H10O3) C,H.

reactant | 2-(4-methyl-2-phenylmethoxyphenyl)acetonitrile | 63 mmol, 15 g | CC1=CC(=C(C=C1)CC#N)OCC1=CC=CC=C1 | C16H15NO
reactant | NaOH | 0.25 mol, 10 g | [OH-].[Na+]
reactant | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | (4-methyl-2-phenylmethoxyphenyl)acetic acid | 14.2 g, 88% | CC1=CC(=C(C=C1)CC(=O)O)OCC1=CC=CC=C1 | C16H16O3
